US05258378
50% Sodium hydride oil dispersion (0.62 g) was added to an ice-cooled solution of N-trifluoroacetyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine (3.59 g) in dimethylformamide (20 ml) after 20 minutes, methyl iodide (1.76 g) was added and the mixture was heated at 70° C. overnight. After cooling, water was added and the mixture was extracted with ether 3 times. The ether was washed with water, dried and evaporated to give N-methyl-N-trifluoroacetyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine as an oil. The oil was dissolved in methanol (40 ml), 0.880 ammonia added and the solution was stirred for 6 hours. After evaporation, the residue was dissolved in 5M hydrochloric acid and extracted with ether. The aqueous part was basified with 0.880 ammonia and the product was extracted into dichloromethane. The extracts were washed with water, dried and evaporated to give the title product as a pure oil.

reactant | Sodium hydride oil dispersion | 0.62 g | [H-].[Na+]
reactant | N-trifluoroacetyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | 3.59 g | FC(C(=O)NCCC1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1)(F)F | C14H13F3N2O3S
reactant | methyl iodide | 1.76 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-trifluoroacetyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | CN(C(C(F)(F)F)=O)CCC1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1 | C15H15F3N2O3S
